US07902308B2
4.1—Synthesis of 2,4-bis(tert-butyl)-6-[[(2,3,4,5,6-pentafluorophenyl) imino]methyl]phenol
Employing an analogous procedure to that described above for the synthesis of 2,4-bis(tert-butyl)-6-[[(2,6-dibromophenyl)imino]methyl]phenol, 2,3,4,5,6-pentafluoroaniline (0.54 g, 2.9 mmol) was added to 3,5-di-tert-butyl-2-hydroxybenzaldehyde (0.70 g, 2.9 mmol). The product was purified by recrystallisation from hot MeOH and isolated as yellow crystals.

reactant | 2,4-bis(tert-butyl)-6-[[(2,6-dibromophenyl)imino]methyl]phenol | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C=NC1=C(C=CC=C1Br)Br)O | C21H25Br2NO
reactant | 2,3,4,5,6-pentafluoroaniline | 2.9 mmol, 0.54 g | FC1=C(N)C(=C(C(=C1F)F)F)F | C6H2F5N
reactant | 3,5-di-tert-butyl-2-hydroxybenzaldehyde | 2.9 mmol, 0.70 g | C(C)(C)(C)C=1C(=C(C=O)C=C(C1)C(C)(C)C)O | C15H22O2
product | 2,4-bis(tert-butyl)-6-[[(2,3,4,5,6-pentafluorophenyl) imino]methyl]phenol | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C=NC1=C(C(=C(C(=C1F)F)F)F)F)O | C21H22F5NO
